US05998412
A solution of methyl 1-[4-(4-chlorophenyl)piperazine-1-sulfonyl]piperidine-2-(RS)-carboxylate (164 mg, 0.41 mmol), [prepared as described in Example 3] and NaOH (33 mg, 0.82 mmol) in methanol/water (5 ml of 9:1 ratio) was heated at reflux. After 2 h, the reaction mixture was concentrated in vacuo, diluted with water (5 ml) and extracted with diethyl ether. The aqueous phase was acidified to pH 3 with 5% potassium bisulfate solution and the product was extracted into ethyl acetate. The organic phase was washed with brine, dried over MgSO4, and concentrated to yield 1-[4-(4-chlorophenyl)piperazine-1-sulfonyl]piperidine-2-(RS)-carboxylic acid as a foam (125 mg, 79%).

reactant | methyl 1-[4-(4-chlorophenyl)piperazine-1-sulfonyl]piperidine-2-(RS)-carboxylate | 0.41 mmol, 164 mg | ClC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)N1C(CCCC1)C(=O)OC | C17H24ClN3O4S
reactant | NaOH | 0.82 mmol, 33 mg | [OH-].[Na+]
solvent | methanol water | 5 ml | CO.O
product | 1-[4-(4-chlorophenyl)piperazine-1-sulfonyl]piperidine-2-(RS)-carboxylic acid | 125 mg, 79% | ClC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)N1C(CCCC1)C(=O)O | C16H22ClN3O4S
